US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine and quinoline-2-carbonyl chloride were combined in dichloromethane and triethylamine (3 equivalents) to provide N2-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-2-quinolinecarboxamide as a white solid, m.p. 78.1-79.9° C. 1H NMR (300 MHz, DMSO-d6) δ9.02 (t, J=6.1 Hz, 1H), 8.55 (d, J=8.5 Hz, 1H), 8.23 (d, J=8.5 Hz, 1H), 8.10 (t, J=7.6 Hz, 1H), 8.02 (d, J=7.6 Hz, 1H), 7.90-7.84 (m, 1H), 7.75-7.70 (m, 1H), 7.58 (dd, J=8.3, 1.0 Hz, 1H), 7.35-7.30 (m, 1H), 7.18-7.13 (m, 2H), 6.48 (broad s, 2H), 4.58 (m, 2H), 3.79 (t, J=6.7 Hz, 2H), 3.44 (m, 2H), 3.22 (m, 5H), 1.91-1.78 (m, 4H); MS (EI) m/e 468.2276 (468.2274 calcd for C27H28N6O2).

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | quinoline-2-carbonyl chloride | N1=C(C=CC2=CC=CC=C12)C(=O)Cl | C10H6ClNO
reactant | triethylamine | 3 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N2-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-2-quinolinecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2=NC1=CC=CC=C1C=C2)CCOC | C27H28N6O2
